US08530475B2
1-(2,7-Dimethyl-1H-indol-4-yloxy)-3-(9-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-en-7-yl)-propan-2-ol
2,7-Dimethyl-4-oxiranylmethoxy-1H-indole (30 mg, 0.138 mmol), Z-(1S,6S)-7-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-ene (40 mg, 0.15 mmol), DIPEA (0.1 mL, 0.55 mmol), ethanol (2 mL) were heated for 900 sec. at 120° C. in a μW reaction tube to yield crude product. The solvent was evaporated under reduced pressure to yield a solid that was purified with flash chromatography gradient [0% Ethyl acetate/heptane to 100% Ethyl acetate] to yield the title compound as a residue.

reactant | 2,7-Dimethyl-4-oxiranylmethoxy-1H-indole | 0.138 mmol, 30 mg | CC=1NC2=C(C=CC(=C2C1)OCC1OC1)C | C13H15NO2
reactant | Z-(1S,6S)-7-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-ene | 0.15 mmol, 40 mg | C1=C(C=CC2=CC=CC=C12)N1[C@H]2C\C=C/C[C@@H](C1)NC2 | C18H20N2
reactant | DIPEA | 0.55 mmol, 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 1-(2,7-Dimethyl-1H-indol-4-yloxy)-3-(9-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-en-7-yl)-propan-2-ol | CC=1NC2=C(C=CC(=C2C1)OCC(CN1C2CC=CCC(C1)N(C2)C2=CC1=CC=CC=C1C=C2)O)C | C31H35N3O2
